US05958942
iv) Synthesis of 4,5-dihydro-4-[4-(trifluoromethane-sulfonamido)butan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one-hydrochloride
In a mixture of 50 ml of ethanol and 1 ml of 12N HCl was dissolved 2.87 g (7.63 mmol) of 4,5-dihydro-4-[4-(trifluoromethanesulfonamido)butan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one, and the solvent was distilled off under reduced pressure to leave 3.15 g of the desired compound (100%, pale yellow solid matter).

reactant | 4,5-dihydro-4-[4-(trifluoromethanesulfonamido)butan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one | 7.63 mmol, 2.87 g | FC(S(=O)(=O)NCCCCN1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | C14H15F3N4O3S
reactant | HCl | 12N, 1 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4,5-dihydro-4-[4-(trifluoromethane-sulfonamido)butan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one-hydrochloride | 3.15 g, 100% | Cl.FC(S(=O)(=O)NCCCCN1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | InChI=1S/C14H15F3N4O3S.ClH/c15-14(16,17)25(23,24)19-6-1-2-7-20-9-10-4-3-5-12-18-8-11(13(20)22)21(10)12;/h3-5,8,19H,1-2,6-7,9H2;1H
